US05194472
N-(2-(Benzoyloxy)ethyl)-N,N-dimethyl-n-octadecylammonium bromide
A mixture of 45.0 g (0.1964 mol) of 2-bromoethyl benzoate and an equimolar amount of N,N-dimethyl-n-octadecylamine in 207 ml of acetonitrile was heated at reflux for 4.5 hours. The reaction mixture was then cooled. The solid was then collected, washed with ether, and dried to yield 76.7 g of the title compound; mp=87°-93° C.

reactant | 2-bromoethyl benzoate | 0.1964 mol, 45.0 g | C(C1=CC=CC=C1)(=O)OCCBr | C9H9BrO2
reactant | N,N-dimethyl-n-octadecylamine | CN(C)CCCCCCCCCCCCCCCCCC | C20H43N
solvent | acetonitrile | 207 ml | C(C)#N | C2H3N
product | N-(2-(Benzoyloxy)ethyl)-N,N-dimethyl-n-octadecylammonium bromide | 76.7 g | [Br-].C(C1=CC=CC=C1)(=O)OCC[N+](C)(C)CCCCCCCCCCCCCCCCCC | InChI=1S/C29H52NO2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-25-30(2,3)26-27-32-29(31)28-23-20-19-21-24-28;/h19-21,23-24H,4-18,22,25-27H2,1-3H3;1H/q+1;/p-1
